US05332837
242 mg (0.59 mM) of the product of step 2, 1,1-dimethylethyl ester of 1-(hydroxymethyl)-1,6-dihydro-8-methyl-5-(phenylmethoxy)-benzo[1,2-b:4,3-b']dipyrrole-3(2H)-carboxylic acid, is dissolved in distilled THF (2.4 ml) and absolute ethanol (25 ml). The compound is hydrogenalized over 10% palladium on carbon (192 mg) at 42 PSI for 50 minutes. The reaction is filtered through diatomaceous earth, washing with absolute ethanol. Evaporation yields compound 4, 1,1-dimethylethyl ester of 1-(hydroxymethyl)-1,6-dihydro-8-methyl-5-hydroxy-benzo[1,2-b:4,3-b']dipyrrole-3(2H)-carboxylic acid.

reactant | 1-(hydroxymethyl)-1,6-dihydro-8-methyl-5-(phenylmethoxy)-benzo[1,2-b:4,3-b']dipyrrole-3(2H)-carboxylic acid | OCC1C2=C(N(C1)C(=O)O)C=C(C=1NC=C(C12)C)OCC1=CC=CC=C1 | C20H20N2O4
reactant | ethanol | 25 ml | C(C)O | C2H6O
solvent | THF | 2.4 ml | C1CCOC1 | C4H8O
catalyst | palladium on carbon | 192 mg | [Pd] | Pd
product | 1-(hydroxymethyl)-1,6-dihydro-8-methyl-5-hydroxy-benzo[1,2-b:4,3-b']dipyrrole-3(2H)-carboxylic acid | OCC1C2=C(N(C1)C(=O)O)C=C(C=1NC=C(C12)C)O | C13H14N2O4
